US08614234B2
To a stirred solution of methyl 4-{S-methyl-N-[(5-{4-[4-({[(3-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrol-3-yl)carbonyl]sulfonimidoyl}butanoate (5 mg, 0.0087 mol) in MeOH (3 ml) was added 1M NaOH (0.5 ml, 0.5 mmol). The mixture was stirred at room temperature for 30 minutes, and poured into 30 ml of water. 2M HCl was added dropwise until pH=4. The precipitates were filtered, washed with water and dried to give 4-{S-methyl-N-[(5-{4-[4-({[(3-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrol-3-yl)carbonyl]sulfonimidoyl}butanoic acid as off-white solid. Yield: 5 mg, 100%.

reactant | methyl 4-{S-methyl-N-[(5-{4-[4-({[(3-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrol-3-yl)carbonyl]sulfonimidoyl}butanoate | 0.0087 mol, 5 mg | CS(=O)(=NC(=O)C1=CNC(=C1)C1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC(=CC=C1)C)CCCC(=O)OC | C30H31N5O6S
reactant | NaOH | 0.5 mmol, 1M, 0.5 ml | [OH-].[Na+]
reactant | water | 30 ml | O | H2O
reactant | HCl | 2M | Cl | ClH
solvent | MeOH | 3 ml | CO | CH4O
product | 4-{S-methyl-N-[(5-{4-[4-({[(3-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrol-3-yl)carbonyl]sulfonimidoyl}butanoic acid | CS(=O)(=NC(=O)C1=CNC(=C1)C1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC(=CC=C1)C)CCCC(=O)O | C29H29N5O6S
